US04004026
A solution of 3.0 g of crude 1-formyl-5-cyclohexyl-6-chloro-1-indanecarboxylic acid methyl ester in 30 of tetrahydrofurane and 3 ml of water is treated with 4 equivalents of silver oxide (manufactured according to Corey et al., J. Amer. Chem. Soc., 90, 5616 (1963)) and the mixture is stirred overnight at room temperature. The reaction solution is then filtered through Celite and the filtrate is partitioned between 150 ml of methylene chloride and 100 ml of 0.1 N hydrochloric acid. The organic phase is washed with twice 150 ml of water, dried over sodium sulphate and evaporated in vacuo. Chromatography of the evaporation residue on silica gel, using benzene/ethyl acetate/glacial acetic acid, 90:30:1, as the eluting agent, yields crude 1-methoxycarbonyl-5-cyclohexyl-6-chloro-1-indanecarboxylic acid which can be purified further by fractional crystallisation from benzene-hexane; melting point 139°-142° C.

reactant | 1-formyl-5-cyclohexyl-6-chloro-1-indanecarboxylic acid methyl ester | 3.0 g | COC(=O)C1(CCC2=CC(=C(C=C12)Cl)C1CCCCC1)C=O | C18H21ClO3
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
catalyst | silver oxide | 4 equivalents | [Ag]=O
solvent | water | 3 ml | O | H2O
product | 1-methoxycarbonyl-5-cyclohexyl-6-chloro-1-indanecarboxylic acid | COC(=O)C1(CCC2=CC(=C(C=C12)Cl)C1CCCCC1)C(=O)O | C18H21ClO4
